US08044052B2
2-(3-Bromo-5-(chloromethyl)phenoxy)-5-(trifluoromethyl)pyridine
To a solution of (3-bromo-5-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methanol (5.5 g, 15.8 mmol) in dry THF (30 mL) cooled to 0° C. was added thionyl chloride (3.22 mL, 44.3 mmol) dropwise. The reaction was warmed to RT and stirred for 2 h. The reaction mixture was then cooled and water was added. The mixture was extracted with ethyl acetate three times. The organic layer was washed with saturated NaHCO3 solution and brine, dried over Na2SO4, and evaporated to dryness to give the title compound (4.7 g). 1H NMR (500 MHz, CDCl3): δ 8.44 (s, 1H), 7.93 (d, J=8.5 Hz, 1H), 7.43 (s, 1H), 7.29 (s, 1H), 7.15 (s, 1H), 7.05 (d, J=8.5 Hz, 1H), 4.54 (s, 2H).

reactant | (3-bromo-5-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methanol | 15.8 mmol, 5.5 g | BrC=1C=C(C=C(C1)OC1=NC=C(C=C1)C(F)(F)F)CO | C13H9BrF3NO2
reactant | thionyl chloride | 44.3 mmol, 3.22 mL | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(3-Bromo-5-(chloromethyl)phenoxy)-5-(trifluoromethyl)pyridine | 4.7 g | BrC=1C=C(OC2=NC=C(C=C2)C(F)(F)F)C=C(C1)CCl | C13H8BrClF3NO
